US07307086B2
2-[4-(Trifluoromethyl)phenyl]ethanamine
[4-(Trifluoromethyl)phenyl]acetonitrile (10.0 g, 54 mmol) was dissolved in a 2.00 M solution of ammonia in methanol (100 mL) in a Parr flask. To it was added Raney Nickel (approx. 1 g). The mixture was shaken under hydrogen (50 psi) for 20 h and filtered through celite which was then washed with methylene chloride several times. The filtrate was concentrated to afford the title compound as a solid. MS calculated for C9H10F3N: (M+H)+190; found 173.1 (M+H−NH3)+.

reactant | [4-(Trifluoromethyl)phenyl]acetonitrile | 54 mmol, 10.0 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
solvent | ammonia | N | H3N
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney Nickel | approx. 1 g | [Ni] | Ni
product | 2-[4-(Trifluoromethyl)phenyl]ethanamine | FC(C1=CC=C(C=C1)CCN)(F)F | C9H10F3N
